US06984647B2
(1-Chloro-isoquinolin-5-yl)-carbamic acid phenyl ester (150 mgs, 0.5 mmol), 1-Benzyl-6-fluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamine hydrochloride (146 mgs, 0.5 mmol), and sodium bicarbonate (42 mgs, 0.5 mmol) were combined and stirred for one hour in DMSO (4 ml) at ambient temperature. The product was purified by directly injecting the crude reaction onto a reverse phase prep-HPLC (10-90% water:acetonitrile gradient). The appropriate fractions were lyophilized to yield 1-(1-Benzyl-6-fluoro-1,2,3,4-tetrahydro-naphthalen-2-yl)-3-(1-chloro-isoquinolin-5-yl)-urea (64 mgs, 28%) MS (MH+) 459; 1H NMR (CD3OD) δ 1.93-2.06 (m, 1H), 2.09-2.13 (m, 1H), 2.91-3.07 (m, 4H), 3.40-3.42 (m, 1H), 4.07-4.10 (s, 1H), 6.69-6.78 (m, 1H), 6.80-6.89 (m, 2H), 7.12-7.26 (m, 5H), 7.72 (t, 1H, J=8.2 Hz), 7.83 (d, 1H, J=6.1 Hz), 8.19 (d, 1H, J=8.6 Hz), 8.17-8.24 (m, 2H). HPLC Rt=4.04 min (50-90% water:acetonitrile gradient, 100% pure).

reactant | (1-Chloro-isoquinolin-5-yl)-carbamic acid phenyl ester | 0.5 mmol, 150 mgs | C1(=CC=CC=C1)OC(NC1=C2C=CN=C(C2=CC=C1)Cl)=O | C16H11ClN2O2
reactant | 1-Benzyl-6-fluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamine hydrochloride | 0.5 mmol, 146 mgs | Cl.C(C1=CC=CC=C1)C1C(CCC2=CC(=CC=C12)F)N
reactant | sodium bicarbonate | 0.5 mmol, 42 mgs | C([O-])(O)=O.[Na+]
solvent | DMSO | 4 ml | CS(=O)C | C2H6OS
product | 1-(1-Benzyl-6-fluoro-1,2,3,4-tetrahydro-naphthalen-2-yl)-3-(1-chloro-isoquinolin-5-yl)-urea | 64 mgs, 28% | C(C1=CC=CC=C1)C1C(CCC2=CC(=CC=C12)F)NC(=O)NC1=C2C=CN=C(C2=CC=C1)Cl | C27H23ClFN3O
